US07635715B2
Step D: Preparation of Ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-carboxylate
Benzaldehyde oxime (174 mg, 1434 μmol) in DMF (7 mL) was added to a stirred suspension of NaH (60% dispersion in mineral oil (57 mg, 1434 μmol)) in dioxane (7 mL) under a N2 atmosphere. The mixture was stirred for approximately 30 minutes before being cooled to 0° C. Ethyl 1-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)cyclobutanecarboxylate (400 mg, 1195 μmol) in DMF (7 mL) was added via syringe, and the reaction was stirred at 0° C. for 1 hour. The reaction was quenched with water, and extracted with EtOAc. The aqueous layer was separated and brought to a pH of about 4 with 10% HCl and extracted again with EtOAc (2×). The combined organic layers were dried (MgSO4) and concentrated in vacuo to give an orange oil. The crude oil was purified by silica flash chromatography (0-20% EtOAc/hexane) to give the desired compound as a white solid (155 mg). MS (m/e)=307.1 (M+H)+.

reactant | Benzaldehyde oxime | 1434 μmol, 174 mg | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | NaH | 1434 μmol, 57 mg | [H-].[Na+]
reactant | Ethyl 1-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)cyclobutanecarboxylate | 1195 μmol, 400 mg | ClC1=CC(=C(C=C1)C1(CCC1)C(=O)OCC)C#CC(=O)OCC | C18H19ClO4
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | Ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-carboxylate | 155 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCC3)=O)C(=O)OCC)O | C16H15ClO4
